US07964733B2
(a) 3-(Bromomethyl)-2-phenylquinoline-4-carboxylic acid
To a solution of 3-methyl-2-phenylquinoline-4-carboxylic acid (1.5 g, 5.7 mmol) and N-bromosuccinimide (1.52 g, 8.5 mmol) in carbon tetrachloride (25 mL) was added benzoyl peroxide (approximately 10 mg) and heated under reflux with illumination using a long wavelength ultraviolet lamp (Blak-ray model B100-AP, Upland, Calif.). After 4 h, additional portions of N-bromosuccinimide (750 mg, 4.2 mmol) and benzoyl peroxide (approximately 10 mg) were added. After an additional 2 h, the cooled mixture was diluted with water. Sodium thiosulfate (1 g) was added, then the pH was adjusted to approximately 4.0 by addition of dilute HCl and NaOH. The mixture was further diluted with ethyl acetate, extracted, and dried (MgSO4) to afford the product as a light brown powder (1.62 g, 6.2 mmol). 1H NMR (300 MHz, DMSO) δ 8.09 (d, J=8.4 Hz, 1H), 7.96-7.86 (m, 2H), 7.76 (d, J=8.2 Hz, 1H), 7.68-7.64 (m, 2H), 7.61-7.55 (m, 3H), 4.75 (s, 2H). LRMS m/z 342.0.

reactant | 3-methyl-2-phenylquinoline-4-carboxylic acid | 5.7 mmol, 1.5 g | CC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C17H13NO2
reactant | N-bromosuccinimide | 8.5 mmol, 1.52 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 4.2 mmol, 750 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Sodium thiosulfate | 1 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | carbon tetrachloride | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | benzoyl peroxide | approximately 10 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
catalyst | benzoyl peroxide | approximately 10 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-(Bromomethyl)-2-phenylquinoline-4-carboxylic acid | 6.2 mmol, 1.62 g | BrCC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C17H12BrNO2
